US07098247B2
To a solution of 2.70 g (11.38 mmol) 5-diallylaminomethyl-thiophene-2-carboxylic acid in 50 ml THF was added 2.03 g (12.51 mmol) carbonyldiimidazol. After 45 min at rt, 2.48 g (11.95 mmol) mono-boc-ortho-phenylenediamine were added to the reaction mixture, and it was stirred for 3 h at rt. The solvent was evaporated and the residue dissolved in ethyl acetate. The organic phase was washed twice with sat. NaHCO3, once with water and dried over Na2SO4. The solvent was evaporated and the residue was subjected to silica gel chromatography (ethyl acetate/heptane 2:8) to yield 4.10 g (9.59 mmol) {2-[(5-Diallylaminomethyl-thiophene-2-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester; exact MW [M+H] calc'd: 428.20; MW found [M+H]: 428.3.

reactant | 5-diallylaminomethyl-thiophene-2-carboxylic acid | 11.38 mmol, 2.70 g | C(C=C)N(CC=C)CC1=CC=C(S1)C(=O)O | C12H15NO2S
reactant | carbonyldiimidazol | 12.51 mmol, 2.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | mono-boc-ortho-phenylenediamine | 11.95 mmol, 2.48 g | C(=O)(OC(C)(C)C)NC1=C(C=CC=C1)N | C11H16N2O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | {2-[(5-Diallylaminomethyl-thiophene-2-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester | 9.59 mmol, 4.10 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1SC(=CC1)CN(CC=C)CC=C)=O | C23H29N3O3S
